US04734415
A mixture of 0.57 g of 4,5-dihydro-6-[4-(isothiocyano)phenyl]-3(2H)-pyridazinone, 0.51 g of 2-bromoethylamine hydrobromide and 0.34 g of anhydrous K2CO3 in 12 ml of DMF is heated at 80° C. for four hours. The reaction mixture is cooled, filtered, and the filtrate is concentrated under reduced pressure. The residue is treated with water, neutralized, and filtered to give 0.5 g of 6-[4-[(4,5-dihydro-2-thiazolyl)amino]phenyl]-4,5-dihydro-3(2H)-pyridazinone, mp 217°-218° C.

reactant | 4,5-dihydro-6-[4-(isothiocyano)phenyl]-3(2H)-pyridazinone | 0.57 g | N(=C=S)C1=CC=C(C=C1)C=1CCC(NN1)=O | C11H9N3OS
reactant | 2-bromoethylamine hydrobromide | 0.51 g | Br.BrCCN
reactant | K2CO3 | 0.34 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 6-[4-[(4,5-dihydro-2-thiazolyl)amino]phenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.5 g | S1C(=NCC1)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N4OS
